US07919628B2
To a solution of 70 mg of 2-{[4-chloro-1-(piperidin-4-yl-methoxy)-naphthalene-2-carbonyl]-amino}-2-methyl-butyric acid ethyl ester in 4 mL dichloromethane was added 0.026 ml of acetyl chloride followed by addition of 0.13 mL Et3N. This mixture was stirred overnight. The mixture was concentrated and chromatographed on silica with 7 N NH3 in MeOH/dichloromethane to give 76 mg of 2-{[1-(1-acetyl-piperidin-4-ylmethoxy)-4-chloro-naphthalene-2-carbonyl]-amino}-2-methyl-butyric acid ethyl ester.

reactant | 2-{[4-chloro-1-(piperidin-4-yl-methoxy)-naphthalene-2-carbonyl]-amino}-2-methyl-butyric acid ethyl ester | 70 mg | C(C)OC(C(CC)(C)NC(=O)C1=C(C2=CC=CC=C2C(=C1)Cl)OCC1CCNCC1)=O | C24H31ClN2O4
reactant | acetyl chloride | 0.026 ml | C(C)(=O)Cl | C2H3ClO
reactant | Et3N | 0.13 mL | CCN(CC)CC | C6H15N
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 2-{[1-(1-acetyl-piperidin-4-ylmethoxy)-4-chloro-naphthalene-2-carbonyl]-amino}-2-methyl-butyric acid ethyl ester | 76 mg | C(C)OC(C(CC)(C)NC(=O)C1=C(C2=CC=CC=C2C(=C1)Cl)OCC1CCN(CC1)C(C)=O)=O | C26H33ClN2O5
